US05266556
To a solution of 1-(2,6-dichloro-4-trifluoromethylphenyl)-6-hydroxyindazole [Compound No. 80] (10 g) in dichloromethane (30 ml), triethylamine (5 g) and methoxycarbonyl chloride (7 g) were added, and the resultant mixture was refluxed for 3 hours. After completion of the reaction, the reaction mixture was poured into water and extracted with diethyl ether. The extract was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography with hexane-ethyl acetate (4:1) to give methyl 1-(2,6-dichloro-4-trifluoromethylphenyl)indazol-6-yl carbonate (11 g).

reactant | 1-(2,6-dichloro-4-trifluoromethylphenyl)-6-hydroxyindazole | 10 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=CC2=CC=C(C=C12)O | C14H7Cl2F3N2O
reactant | triethylamine | 5 g | C(C)N(CC)CC | C6H15N
reactant | methoxycarbonyl chloride | 7 g | COC(=O)Cl | C2H3ClO2
reactant | water | O | H2O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | methyl 1-(2,6-dichloro-4-trifluoromethylphenyl)indazol-6-yl carbonate | 11 g | C(OC)(OC1=CC=C2C=NN(C2=C1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)=O | C16H9Cl2F3N2O3
